US04036973
A 56% dispersion of sodium hydride in mineral oil (480 mg.) is added under nitrogen to a solution of 2.52 g. of 1-[3'-(4"-chlorophenoxy)-2'-hydroxypropyl]imidazole in 6 ml. dry hexamethylphosphoramide. After stirring for 1 hours at room temperature, the temperature is increased to 45° C. and stirring is continued for 2 hours. The solution is then cooled in an ice bath and 2.5 g. of 1-bromodecane in 1 ml. of hexamethylphosphoramide is added. Thereafter, the solution is stirred for 2 hours at room temperature and then for 16 hours at 50° C. The reaction mixture is poured into water and the resultant aqueous mixture extracted with ether and the ether extracts washed with water. The organic phase is dried over magnesium sulfate and evaporated. The resulting residue is chromatographed on silica gel. Elution with 20% acetone in dichloromethane yields 1-[3'-(4"-chlorophenoxy)-2'-(n-decyloxy)propyl]imidazole.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-[3'-(4"-chlorophenoxy)-2'-hydroxypropyl]imidazole | ClC1=CC=C(OCC(CN2C=NC=C2)O)C=C1 | C12H13ClN2O2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
solvent | water | O | H2O
product | 1-[3'-(4"-chlorophenoxy)-2'-(n-decyloxy)propyl]imidazole | ClC1=CC=C(OCC(CN2C=NC=C2)OCCCCCCCCCC)C=C1 | C22H33ClN2O2
